* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG702.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
VS N001 0 3
V4 N003 0 PULSE(0 3 0 10n 10n 980n 2u)
R1 N002 0 300
C1 N002 0 35p
X§U2 N003 N002 N001 0 +V ADG702
.tran 10u
.lib ADG702.sub
.backanno
.end
